US08685969B2
8. 4-(2-Methyl-3-(4-methylbenzamido)phenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of 4-(3-amino-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide (0.0287 g, 0.071 mmol) and 4-methylbenzoyl chloride (0.013 g, 0.086 mmol) in dichloromethane (0.953 mL) under nitrogen was added pyridine (0.012 mL, 0.143 mmol). The vial was sealed and stirred at 40° C. After 15 min, the reaction was cooled to room temperature and concentrated in vacuo. It was diluted with MeOH (1 mL) and purified by reverse phase HPLC. The appropriate fractions were combined, basified with NaHCO3 (solid), and concentrated in vacuo. It was extracted with CH2Cl2 (3×). The organic layers were combined, dried over Na2SO4, and concentrated in vacuo to give the desired product (0.0192 g, 0.037 mmol, 51.7% yield) as a light yellow solid. LC/MS (M+H)=520.25; 1H NMR (400 MHz, DMSO-d6) δ ppm 11.56 (s, 1H), 10.00 (s, 1H), 8.31 (d, J=2.2 Hz, 1H), 8.15 (s, 1H), 7.92 (s, 1H), 7.90 (s, 1H), 7.75 (d, J=2.0 Hz, 1H), 7.70 (d, J=8.80 Hz, 1H), 7.55 (d, J=7.0 Hz, 1H), 7.45 (t, J=7.7 Hz, 1H), 7.35 (s, 1H), 7.33 (s, 1H), 7.25-7.32 (m, 1H), 6.53 (d, J=2.2 Hz, 1H), 3.68 (m, 4H), 2.80-2.91 (m, 4H), 2.38 (s, 3H), 1.94 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.071 mmol, 0.0287 g | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC=C(C=C3C21)N2CCOCC2)C(=O)N)C | C23H23N5O2
reactant | 4-methylbenzoyl chloride | 0.086 mmol, 0.013 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | pyridine | 0.143 mmol, 0.012 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 0.953 mL | ClCCl | CH2Cl2
product | 4-(2-Methyl-3-(4-methylbenzamido)phenyl)-6-morpholino-9H-pyrido[3,4-b]indole-1-carboxamide | 0.037 mmol, 0.0192 g, 51.7% yield | CC1=C(C=CC=C1NC(C1=CC=C(C=C1)C)=O)C1=CN=C(C=2NC3=CC=C(C=C3C21)N2CCOCC2)C(=O)N | C31H29N5O3
